US04332808
14.5 g of sodium carbonate and 6 ml of propyl iodide were added to a mixture of 12 g of 3-(1-methyl-1H-indol-4-yl)-3-piperidinol hydrochloride in 240 ml of dimethylformamide and the mixture was stirred for 20 hours and then was diluted with water. The mixture was extracted with ethyl acetate and the organic phase was washed with aqueous sodium chloride solution, dried and evaporated to dryness under reduced pressure. The 11 g of residue were chromtographed over silica gel and eluted with a 9-1 cyclohexane-triethylamine mixture to obtain 8.2 g of 1-propyl-3-(1-methyl-1H-indol-4-yl)-3-piperidinol) with an Rf=0.2.

reactant | sodium carbonate | 14.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | propyl iodide | 6 ml | C(CC)I | C3H7I
reactant | 3-(1-methyl-1H-indol-4-yl)-3-piperidinol hydrochloride | 12 g | Cl.CN1C=CC2=C(C=CC=C12)C1(CNCCC1)O
solvent | dimethylformamide | 240 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 1-propyl-3-(1-methyl-1H-indol-4-yl)-3-piperidinol | 8.2 g | C(CC)N1CC(CCC1)(O)C1=C2C=CN(C2=CC=C1)C | C17H24N2O
